US05071999
d) Ethyl N-allyl-N-(1,1-dimethoxyprop-2-yl)-carbamate
125 g (0.785 mol) of allyl-(1,1-dimethoxyprop-2-yl)amine are initially introduced into 400 ml of toluene, a solution of 40 g of sodium hydroxide in 200 ml of water is added, the mixture is cooled in an ice-bath to 0° C. and 95 g (0.876 mol) of ethyl chloroformate are added dropwise. The mixture is then stirred for 3 hours at room temperature, and the aqueous phase is separated off and extracted twice using 100 ml of toluene each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | allyl-(1,1-dimethoxyprop-2-yl)amine | 0.785 mol, 125 g | C(C=C)NC(C(OC)OC)C | C8H17NO2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | ethyl chloroformate | 0.876 mol, 95 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 200 ml | O | H2O
product | Ethyl N-allyl-N-(1,1-dimethoxyprop-2-yl)-carbamate | C(C=C)N(C(OCC)=O)C(C(OC)OC)C | C11H21NO4
